US05258529
40.00 Grams of the 2-chloroallylphenylcarbinol obtained above were disolved in 400 g of N,N-dimethylformamide, and 17.52 g of sodium hydroxide in a flake form were added. The mixture was stirred at 25° C. for 7 hours. After the reaction was completed the reaction mixture was neutralized with concentrated hydrochloric acid, and insolubles were filtered off. The filtrate was concentrated under reduced pressure, and then the concentration residue was subjected to extraction with toluene, washed with a 7% sodium carbonate aqueous solution and dried over sodium sulfate. The desiccant was filtered off, and the toluene was distilled off under reduced pressure. The resultant oily substance was distilled under reduced pressure to give 30.84 g of phenylpropargylcarbinol. The results were as follows.

reactant | 2-chloroallylphenylcarbinol | ClC(CC(O)C1=CC=CC=C1)=C | C10H11ClO
reactant | sodium hydroxide | 17.52 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 400 g | CN(C=O)C | C3H7NO
product | phenylpropargylcarbinol | 30.84 g, Yield 96.3% | C1(=CC=CC=C1)C(O)CC#C | C10H10O
